US05334720
To a stirred suspension of sodium hydride (27 g of a 60% oil suspension) in 600 mL of dry dimethylformamide at room temperature was added over 1 hour a solution of diphenyl acetonitrile (130 g, o.67 mol) in 400 mL of DMF. the mixture was stirred until the evolution of hydrogen ceased, about 1 hour. Ethyl 3-chloropropionate (90 mL, 1 mol) was added dropwise over 1 hour and the resulting mixture was stirred for a further 1 hour, then it was partitioned between water and ether. The organic layer was washed with brine and dried. Concentration of the solvents afforded a residue which was vacuum distilled to give 4-carbethoxy-2,2-diphenylbutanenitrile (110 g).

reactant | sodium hydride | [H-].[Na+]
reactant | diphenyl acetonitrile | 67 mol, 130 g | C1(=CC=CC=C1)C(C#N)C1=CC=CC=C1 | C14H11N
reactant | hydrogen | [H][H] | H2
reactant | Ethyl 3-chloropropionate | 1 mol, 90 mL | ClCCC(=O)OCC | C5H9ClO2
solvent | dimethylformamide | 600 mL | CN(C=O)C | C3H7NO
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | 4-carbethoxy-2,2-diphenylbutanenitrile | 110 g | C(=O)(OCC)CCC(C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H19NO2
